US07582625B2
A3b) 4-methoxy-[1,4′]bipiperidinyl
A suspension of 2.1 (5.87 mmol) 1′-benzyl-4-methoxy-[1,4′]bipiperidinyl and 1.0 g 10% Pd/C in 50 mL MeOH and 20 mL water was hydrogenated for 8 h at RT and 3 bar hydrogen pressure. The catalyst was removed by suction filtering, the filtrate was concentrated by evaporation i. vac., the residue was triturated with diethyl ether, suction filtered and dried.

reactant | 1′-benzyl-4-methoxy-[1,4′]bipiperidinyl | C(C1=CC=CC=C1)N1CCC(CC1)N1CCC(CC1)OC | C18H28N2O
reactant | hydrogen | [H][H] | H2
solvent | MeOH | 50 mL | CO | CH4O
solvent | water | 20 mL | O | H2O
catalyst | Pd/C | 1.0 g | [Pd] | Pd
product | 4-methoxy-[1,4′]bipiperidinyl | COC1CCN(CC1)C1CCNCC1 | C11H22N2O
